US05190723
(3,5-Ditertbutyl-4-hydroxybenzyl)-4-mercaptopyridine
4-Mercaptopyridine (11.1 g, 0.1 mol), 2,6-di-tertbutylphenol (20,6 g, 0.1 mol), paraformaldehyde (3.0 g, 0.1M) and di-n-butylamine (1 ml) are heated at 80° C. for two and half hours, after which time, thin layer chromatography (t.l.c.) showed the reaction to be complete. The reaction mixture is cooled to 50° C., ethanol (100 ml) is added and the product is crystallised as a pale yellow solid (24.7 g, 78.4% of theory) of m.p. 169°-171° C. (Found C=73.30; H=8.49; N=4.31; S=9.71 C20H27NOS requires C=72.95; H=8.21; N=4.26 and S=9.73%).

reactant | 4-Mercaptopyridine | 0.1 mol, 11.1 g | SC1=CC=NC=C1 | C5H5NS
reactant | 2,6-di-tertbutylphenol | 0.1 mol, 20,6 g | C(C)(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
reactant | paraformaldehyde | 0.1M, 3.0 g | C=O | CH2O
reactant | di-n-butylamine | 1 ml | C(CCC)NCCCC | C8H19N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | (3,5-Ditertbutyl-4-hydroxybenzyl)-4-mercaptopyridine | C(C)(C)(C)C=1C=C(CC2=NC=CC(=C2)S)C=C(C1O)C(C)(C)C | C20H27NOS
